US05030629
Preparation of 1-[2-(2-Hydroxyethoxy)ethyl]-2-undecyl-2-imidazoline
13.7 g (92.6 mmoles) N-[2-(2-Hydroxyethoxy)ethyl]ethylenediamine and 19.6 g (86 mmoles) of ethyl dodecanoate were mixed and heated in a flask equipped with a Dean-Stark trap. After the separated ethanol and water were distilled off, the residue was kugelrohr distilled at 160°-170° C./0.1 mm to give 13.6 g (50.7%) of crude product. Recrystallization from ethyl acetate/hexane gave white crystalline material, m.p. 58°-60° C.

reactant | N-[2-(2-Hydroxyethoxy)ethyl]ethylenediamine | 92.6 mmoles, 13.7 g | OCCOCCNCCN | C6H16N2O2
reactant | ethyl dodecanoate | 86 mmoles, 19.6 g | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
product | 1-[2-(2-Hydroxyethoxy)ethyl]-2-undecyl-2-imidazoline | 13.6 g, 50.7% | OCCOCCN1C(=NCC1)CCCCCCCCCCC | C18H36N2O2
